US05565469
4'-[(2-n-Propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(benzoylaminosulphonyl)-biphenyl
145 mg of benzoic acid and 192 mg of carbonyldiimidazole are stirred in 1 ml of tetrahydrofuran for 2 hours at 50° C. To this is added a solution of 163 mg of 4'-[(2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-sulphamoyl-biphenyl, 0.133 ml of 1,8-diazabicyclo-[5.4.0]undec-7-ene and 1 ml of tetrahydrofuran and the mixture is maintained at 55° C. for 2.5 hours. Then 50 ml of ethyl acetate and 20 ml of 5% citric acid are added. The organic phase is dried with sodium sulphate and evaporated down. The residue obtained is chromatographed over silica gel with dichloromethane/ethanol (95:5).

reactant | benzoic acid | 145 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | carbonyldiimidazole | 192 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4'-[(2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-sulphamoyl-biphenyl | 163 mg | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C32H31N5O2S
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 0.133 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | citric acid | 20 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4'-[(2-n-Propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(benzoylaminosulphonyl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)NC(C1=CC=CC=C1)=O)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C39H35N5O3S
